US08492378B2
6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[4-(methylsulfonyl)phenyl]-1H-benzimidazole
To a solution of 6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[4-(methylthio)phenyl]-1H-benzimidazole (322 mg, 1.00 mmol) in dichloromethane (10 mL) was added m-chloroperbenzoic acid (479 mg, 2.00 mmol) at 0° C., and the resulting mixture was stirred at room temperature for 1 hr. A saturated aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was stirred for 1 hr. The organic layer was separated, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=4/1-0/1), and recrystallized from hexane/chloroform to give the title compound (302 mg, yield 85%) as colorless crystals.

reactant | 6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[4-(methylthio)phenyl]-1H-benzimidazole | 1.00 mmol, 322 mg | CC1=NN=C(O1)C=1C=CC2=C(N(C=N2)C2=CC=C(C=C2)SC)C1 | C17H14N4OS
reactant | m-chloroperbenzoic acid | 2.00 mmol, 479 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[4-(methylsulfonyl)phenyl]-1H-benzimidazole | 302 mg, yield 85% | CC1=NN=C(O1)C=1C=CC2=C(N(C=N2)C2=CC=C(C=C2)S(=O)(=O)C)C1 | C17H14N4O3S
